US06329086B1
Synthesis of 4bromo-2-t-butyldimethylsilyloxymethylbenzene (compound 2)
To a 1-L round-bottomed flask were added 4-bromobenzyl alcohol (100.0 g, 0.53 mol), imidazole (91.0 g, 1.34 mol), t-butyldimethylsilyl chloride (TBDMS-Cl) (96.5 g, 0.64 mol), and DMF 100 mL. The reaction mixture was stirred at room temperature under nitrogen overnight. The reaction was poured into water and extracted with ether three times and the combined organic phase was washed with water three times and dried over MgSO4. After solvent was removed, the product was obtained as light yellow liquid 154 g (62% yield). 1H NMR (CDCl3) δ (Ppm): 0.07 (s, 9H), 0.91 (s, 6H), 4.65 (s, 2H), 7.17 (d, J=8.2 Hz, 2H), 7.42 (s, J=8.3 Hz, 2H); 13C NMR (CDCl3): −1.71, 21.93, 29.48, 67.89, 124.13, 131.27, 134.82, 144.02; FD-MS: m/z 301 (M+).

reactant | 4-bromobenzyl alcohol | 0.53 mol, 100.0 g | BrC1=CC=C(CO)C=C1 | C7H7BrO
reactant | imidazole | 1.34 mol, 91.0 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyl chloride | 0.64 mol, 96.5 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4bromo-2-t-butyldimethylsilyloxymethylbenzene | 154 g, 62% yield | BrC1=CC(=CC=C1)CO[Si](C)(C)C(C)(C)C | C13H21BrOSi
